US06627755B1
A mixture of 3-(2-chloro-pyridin-3-yl)-6-fluoro-2-methyl-3,4-dihydro-quinazolin-4-one (3.5 g, 12.0 mmol) and dimethylformamide dimethyl acetal (3.2 mL, 24 mmol) in dimethylformamide (12 mL) was refluxed for 24 hours. The reaction was cooled to ambient temperature and concentrated at reduced pressure to afford an orange solid. The solid was triturated with ethanol and the yellow crystalline solid was collected and dried to give 3.61 g (87%) of 3-(2-chloro-pyridin-3-yl)-6-fluoro-2-(2-dimethylamino-vinyl)-3,4-dihydro-quinazolin-4-one, which had: mp 197-200° C.; H 1H NMR δ 8.46 (dd, J=1.5, 5 Hz, 1H), 7.85 (d, J=12.2 Hz, 1H), 7.70 (dd, J=3, 8.5 Hz, 1H), 7.68-7.65 (m, 1H), 7.45-7.38 (m, 2H), 7.31 (dt, J=3, 8.5 Hz, 1H), 3.87 (d, J=12.2 Hz, 1H), 2.80 (br s, 6H). Analysis calculated for C17H14ClFN4O: C, 59.22; H, 4.09; N, 16.25. Found: C, 59.14; H, 3.96; N, 16.25.

reactant | 3-(2-chloro-pyridin-3-yl)-6-fluoro-2-methyl-3,4-dihydro-quinazolin-4-one | 12.0 mmol, 3.5 g | ClC1=NC=CC=C1N1C(=NC2=CC=C(C=C2C1=O)F)C | C14H9ClFN3O
reactant | dimethylformamide dimethyl acetal | 24 mmol, 3.2 mL | COC(N(C)C)OC | C5H13NO2
solvent | dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
product | 3-(2-chloro-pyridin-3-yl)-6-fluoro-2-(2-dimethylamino-vinyl)-3,4-dihydro-quinazolin-4-one | 3.61 g, 87% | ClC1=NC=CC=C1N1C(=NC2=CC=C(C=C2C1=O)F)C=CN(C)C | C17H14ClFN4O
